US04725599
trans-6-Chloro-3-[3-(3-hydroxy-2-piperidyl)-2-oxopropyl]thieno[3,2-d]pyrimidin-4(3H)-one Dihydrobromide
In a 15 ml single-neck round bottom flask equipped with a reflux condenser, a solution of 0.69 g (0.00162 mole) of allyl trans-2-[3-(6-chloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-hydroxy-1-piperidinecarboxylate and 6 ml of 48% aqueous hydrobromic acid was immersed in an oil bath preheated to 100° C. Heating was continued for 7.0 minutes. The solution was allowed to cool to room temperature, and the volatile components were evaporated under reduced pressure. Ethanol (5 ml) was added to the residue, and again the mixture was evaporated to dryness. This operation was repeated once more to afford a dark residue which was then triturated with a 1:1 solution of ethanol and acetone to furnish cream colored solid. The mixture was filtered, and the residue was dried under reduced pressure (about 1 mm Hg) to give the title compound: yield 0.50 g (61%); 1H-nmr (DMSO-d6) delta 1.3-2.0 ppm (multiplet, 4H, OCHCH2CH2CH2N), 2.8-3.0 (multiplet, 2H, COCH2CH), 3.1-3.6 (multiplet, 4H, NCH2, NCHCH2, CHOH), 5.2 (singlet, 2H, NCH2CO), 7.6 (singlet, 1H, thieno H), 8.4 (singlet, 1H, N=CH--N), 8.8 (broad singlet, 3H, NH2, NH).

reactant | allyl trans-2-[3-(6-chloro-3,4-dihydro-4-oxothieno[3,2-d]pyrimidin-3-yl)-2-oxopropyl]-3-hydroxy-1-piperidinecarboxylate | 0.00162 mole, 0.69 g | ClC1=CC=2N=CN(C(C2S1)=O)CC(C[C@@H]1N(CCC[C@H]1O)C(=O)OCC=C)=O | C18H20ClN3O5S
reactant | hydrobromic acid | 6 ml | Br | BrH
product | trans-6-Chloro-3-[3-(3-hydroxy-2-piperidyl)-2-oxopropyl]thieno[3,2-d]pyrimidin-4(3H)-one Dihydrobromide | Br.Br.ClC1=CC=2N=CN(C(C2S1)=O)CC(C[C@@H]1NCCC[C@H]1O)=O | InChI=1S/C14H16ClN3O3S.2BrH/c15-12-5-10-13(22-12)14(21)18(7-17-10)6-8(19)4-9-11(20)2-1-3-16-9;;/h5,7,9,11,16,20H,1-4,6H2;2*1H/t9-,11+;;/m0../s1
